US06180627B2
3-Vinylphenylethylamine
A solution of aluminum chloride (1.44 g, 10.8 mmol) in tetrahydrofuran (25 ml) was added carefully to lithium aluminum hydride (1.23 g, 32.4 mmol) in tetrahydrofuran (25 ml), and the mixture stirred at room temperature for 10 mins. A solution of the intermediate acetonitrile in tetrahydrofuran (50 ml) was then added and the reaction stirred at room temperature for 3 hrs. The reaction was quenched by the addition of hydrochloric acid, then basified using aqueous NaOH solution. The mixture was extracted with ethyl acetate, the combined organic extracts dried over MgSO4 and evaporated under reduced pressure. The crude product was redissolved in ethyl acetate, extracted into citric acid, and these aqueous extracts rebasified using aqueous NaHCO3 solution. This was then re-extracted with ethyl acetate, and the combined extracts evaporated under reduced pressure to provide the title compound as a yellow oil, (1.79 g, 47%).

reactant | aluminum chloride | 10.8 mmol, 1.44 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 32.4 mmol, 1.23 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | acetonitrile | C(C)#N | C2H3N
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-Vinylphenylethylamine | 1.79 g, 47% | C(=C)C=1C=C(C=CC1)CCN | C10H13N
